US07704995B2
1,1-dimethylethyl (3S)-3-{[(3-amino-6-bromopyrazin-2-yl)carbonyl]amino}piperidine-1-carboxylate (765.0 mg, 1.91 mmol) was dissolved in DMF followed by addition of 3-hydroxymethyl phenylboronic acid (349.0 mg, 2.23 mmol), K2CO3 (660.0 mg, 4.77 mmol) and Pd(PPh3)4 (10 mol %, 220 mg). This mixture was stirred at 90° C. under nitrogen for 12 hours. The reaction mixture was poured into water (150 mL), and extracted with ethyl acetate (3×50 mL). The organic layers were washed with brine (50 mL) then dried over anhydrous sodium sulfate. Filteration, concentration and column chromatography on silica (50% ethylacetate/hexanes) gave a solid which was dried to affored 765.0 mg (92% yield) of 1,1-dimethylethyl (3S)-3-[({3-amino-6-[3-(hydroxymethyl)phenyl]pyrazin-2yl}carbonyl)amino]piperidine-1-carboxylate: MS (EI) for C22H29N5O4: 428.23 (MH+).

reactant | 1,1-dimethylethyl (3S)-3-{[(3-amino-6-bromopyrazin-2-yl)carbonyl]amino}piperidine-1-carboxylate | 1.91 mmol, 765.0 mg | NC=1C(=NC(=CN1)Br)C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H22BrN5O3
reactant | 3-hydroxymethyl phenylboronic acid | 2.23 mmol, 349.0 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | K2CO3 | 4.77 mmol, 660.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 150 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl (3S)-3-[({3-amino-6-[3-(hydroxymethyl)phenyl]pyrazin-2yl}carbonyl)amino]piperidine-1-carboxylate | 765.0 mg, 92% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H29N5O4
